US07453010B2
3.2: Ethyl trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoate
A mixture of 818 mg (1.82 mmol) of 4-benzyloxy-3-(N-(tert-butoxycarbonyl)-N-(methylsulfonyl)amino)-1-((2S)-2,3-epoxypropoxy)benzene and of 450 mg (1.82 mmol) of ethyl trans-4-[4-(benzylamino)cyclohexyl]benzoate in the base form is heated at reflux in 15 ml of absolute ethanol for 16 h. The mixture is cooled, 3 ml of a saturated ethanolic hydrochloric acid solution are added thereto and the mixture is heated at 50° C. for 6 h. The solvent is evaporated and the residue is taken up with a mixture of 50 ml of a saturated sodium bicarbonate solution and 50 ml of ethyl acetate. The organic phase is washed with a saturated aqueous NaCl solution. The organic phase is dried and filtered, and the solvent is evaporated under reduced pressure. The crude product is purified by chromatography on a column of silica gel, elution being carried out with a methylene chloride/methanol/NH4OH (95/5/0.5) mixture. The title compound is obtained in the form of a white solid. [M+H+]=687.

reactant | 4-benzyloxy-3-(N-(tert-butoxycarbonyl)-N-(methylsulfonyl)amino)-1-((2S)-2,3-epoxypropoxy)benzene | 1.82 mmol, 818 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC[C@@H]1CO1)N(S(=O)(=O)C)C(=O)OC(C)(C)C | C22H27NO7S
reactant | ethyl trans-4-[4-(benzylamino)cyclohexyl]benzoate | 1.82 mmol, 450 mg | C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OCC)C=C1 | C22H27NO2
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Ethyl trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoate | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OCC)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C39H46N2O7S
